US05262415
(c) 3-Amino-4-methylaminopyridine
150 mg of platinum oxide was added to 10 ml of a solution of 3-nitro-4-methylaminopyridine (1.5 g) in ethanol. The mixture was stirred under a hydrogen atmosphere at room temperature for 7.5 hours. Platinum oxide was removed by filtration, and the filtrate was concentrated. Thus, 962 mg (yield: 80%) of the intended product was obtained as brown crude crystals.

reactant | 3-nitro-4-methylaminopyridine | 1.5 g | [N+](=O)([O-])C=1C=NC=CC1NC | C6H7N3O2
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum oxide | 150 mg | [Pt]=O
product | 3-Amino-4-methylaminopyridine | 962 mg, yield: 80% | NC=1C=NC=CC1NC | C6H9N3
